US04427673
65 g (0.24 mole) of 3-(4-methoxyphenyl)-2-phenylacrylic acid methyl ester and 67.3 g (0.98 mole) of 1,2,4-triazole were heated under reflux in the presence of 1.1 g of tribenzo-(18)-crown-6 and 8.1 g of potassium fluoride in 1 liter of acetonitrile for 240 hours. The solvent was then distilled off in vacuo, 700 ml of water were added to the residue and the mixture was extracted three times with 250 ml of methylene chloride each time. The combined organic phases were dried over sodium sulphate and concentrated. The residue was dissolved in 200 ml of acetone. 12 g of 1,5-naphthalenedisulphonic acid in 50 ml of acetone were filtered in and the precipitate formed was filtered off. This precipitate was taken up in 150 ml of saturated sodium bicarbonate solution and the mixture was extracted twice by stirring with 250 ml of methylene chloride each time. The combined organic phases were washed with 100 ml of water, dried over sodium sulphate and concentrated. The residue was recrystallized from ethyl acetate. 9.8 g of 3-(4-methoxyphenyl)-2-phenyl-3-(1,2,4-triazol-1-yl)-propionic acid methyl ester of melting point 159°-161° C. were obtained.

reactant | 3-(4-methoxyphenyl)-2-phenylacrylic acid methyl ester | 0.24 mole, 65 g | COC(C(=CC1=CC=C(C=C1)OC)C1=CC=CC=C1)=O | C17H16O3
reactant | 1,2,4-triazole | 0.98 mole, 67.3 g | N1N=CN=C1 | C2H3N3
reactant | potassium fluoride | 8.1 g | [F-].[K+]
solvent | acetonitrile | 1 liter | C(C)#N | C2H3N
product | 3-(4-methoxyphenyl)-2-phenyl-3-(1,2,4-triazol-1-yl)-propionic acid methyl ester | 9.8 g | COC(C(C(N1N=CN=C1)C1=CC=C(C=C1)OC)C1=CC=CC=C1)=O | C19H19N3O3
